US04172829
The silver derivature of 2,6-dischloropurine may be prepared according to the general procedure disclosed in J. Am. Chem. Soc., 73, 1650 (1951), i.e., the 2,6-dichloropurine is dissolved in boiling water, the solution is basified (e.g. with aqueous ammonia) and an aqueous solution of about one equivalent of a silver salt (e.g. AgNO3) is added to form the desired 2,6-dichloropurine silver salt.

reactant | silver | [Ag] | Ag
reactant | 2,6-dichloropurine | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | ammonia | N | H3N
reactant | silver | about one equivalent | [Ag] | Ag
solvent | water | O | H2O
product | 2,6-dichloropurine silver salt | [Ag].ClC1=NC(=C2NC=NC2=N1)Cl | InChI=1S/C5H2Cl2N4.Ag/c6-3-2-4(9-1-8-2)11-5(7)10-3;/h1H,(H,8,9,10,11);
